US05116862
A mixture of 2-methyl-2-(pent-4-ynyl)malonic acid (5.7 g) and cuprous oxide (0.22 g) in acetonitrile (150 ml) was heated to reflux, under a nitrogen atmosphere, for 4.25 hours. The solvent was removed under reduced pressure and water (50 ml) was added to the residue followed by sufficient concentrated hydrochloric acid to hydrolyse the copper salts. The resulting aqueous phase was extracted with diethyl ether and the organic extracts were washed with water and brine before drying over anhydrous magnesium sulphate and evaporation in vacuo. 2-Methylhept-6-ynoic acid (3.6 g) was obtained as a colourless oil after distillation (b.p. 150°-165°, 0.5 mm Hg).

reactant | 2-methyl-2-(pent-4-ynyl)malonic acid | 5.7 g | CC(C(=O)O)(C(=O)O)CCCC#C | C9H12O4
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
product | 2-Methylhept-6-ynoic acid | 3.6 g | CC(C(=O)O)CCCC#C | C8H12O2
